### PR TITLE
[Merged by Bors] - feat(AlgbraicGeometry), `Hom(-, X)` commutes with inverse limits for schemes of finite presentation

### PR DESCRIPTION
**Pull request by erdOne**
---

- [x] depends on: #30988 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sets/OpenCover.lean [hunk 1]
```diff
@@ -19,6 +19,14 @@ longer than its content; but giving it a name serves as a way of standardizing A
 
 open Set Topology
 
+theorem TopologicalSpace.Opens.exists {α : Type*} [TopologicalSpace α]
+    {p : Opens α → Prop} : (∃ U, p U) ↔ ∃ (U : Set α) (hU : IsOpen U), p ⟨U, hU⟩ :=
+  ⟨(⟨_, _, ·.choose_spec⟩), (⟨_, ·.choose_spec.choose_spec⟩)⟩
+
+-- open Set.Notation in
+-- theorem exists_set_set_iff {α : Type*} (s : Set α)
+--     {p : Set s → Prop} : (∃ t, p t) ↔ ∃ (t : Set α) (ht : t ⊆ s), p (s ↓∩ t) := by
```
Comment (chrisflav) [inline Mathlib/Topology/Sets/OpenCover.lean]: Left over?

File: Mathlib/Topology/Sets/OpenCover.lean [hunk 2]
```diff
@@ -19,6 +19,14 @@ longer than its content; but giving it a name serves as a way of standardizing A
 
 open Set Topology
 
+theorem TopologicalSpace.Opens.exists {α : Type*} [TopologicalSpace α]
+    {p : Opens α → Prop} : (∃ U, p U) ↔ ∃ (U : Set α) (hU : IsOpen U), p ⟨U, hU⟩ :=
+  ⟨(⟨_, _, ·.choose_spec⟩), (⟨_, ·.choose_spec.choose_spec⟩)⟩
```
Comment (chrisflav) [inline Mathlib/Topology/Sets/OpenCover.lean]: This should probably go to an earlier file?

File: Mathlib/AlgebraicGeometry/AffineScheme.lean [hunk 3]
```diff
@@ -356,6 +356,11 @@ lemma Scheme.Opens.toSpecΓ_appTop {X : Scheme.{u}} (U : X.Opens) :
     U.toSpecΓ.appTop = (Scheme.ΓSpecIso Γ(X, U)).hom ≫ U.topIso.inv := by
   simp [Scheme.Opens.toSpecΓ]
 
+@[reassoc]
+lemma Scheme.Opens.toSpecΓ_SpecMap_map_top {X : Scheme} (U : X.Opens) :
+    U.toSpecΓ ≫ Spec.map (X.presheaf.map (homOfLE le_top).op) = U.ι ≫ X.toSpecΓ := by
+  simp
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineScheme.lean]: Is this not [AlgebraicGeometry.Scheme.Opens.toSpecΓ_SpecMap_presheaf_map_top](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/AffineScheme.html#AlgebraicGeometry.Scheme.Opens.toSpec%CE%93_SpecMap_presheaf_map_top)?

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 4]
```diff
@@ -1053,4 +1053,167 @@ lemma Scheme.exists_isOpenCover_and_isAffine [IsCofiltered I]
 
 end IsAffine
 
+section LocallyOfFinitePresentation
+
+include hc in
+nonrec lemma Scheme.exists_π_app_comp_eq_of_locallyOfFiniteType_of_isAffine
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]:
```suggestion
nonrec lemma Scheme.exists_π_app_comp_eq_of_locallyOfFinitePresentation_of_isAffine
```
Should this be private? Or at least get a comment "superseded by ..."?

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 5]
```diff
@@ -1053,4 +1053,167 @@ lemma Scheme.exists_isOpenCover_and_isAffine [IsCofiltered I]
...
+  obtain ⟨i, g, hg, hg'⟩ :=
+    RingHom.EssFiniteType.exists_eq_comp_ι_app_of_isColimit _ D.leftOp t _ _ hc
+    (HasRingHomProperty.Spec_iff.mp ‹LocallyOfFinitePresentation (Spec.map φ)›) ψ fun i ↦ by
+    apply Spec.map_injective; simpa using congr(($ha).app i.unop).symm
+  exact ⟨i.unop, Spec.map g, by simpa using congr(Spec.map $hg').symm,
+    by simpa using congr(Spec.map $hg)⟩
+
+open TopologicalSpace in
+include hc in
+lemma Scheme.exists_π_app_comp_eq_of_locallyOfFiniteType
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]:
```suggestion
lemma Scheme.exists_π_app_comp_eq_of_locallyOfFinitePresentation
```

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 6]
```diff
@@ -1053,4 +1053,167 @@ lemma Scheme.exists_isOpenCover_and_isAffine [IsCofiltered I]
...
+    [∀ i, CompactSpace (D.obj i)] [∀ i, QuasiSeparatedSpace (D.obj i)]
+    (a : c.pt ⟶ X) (ha : c.π ≫ t = (Functor.const _).map (a ≫ f)) :
+    ∃ (i : I) (g : D.obj i ⟶ X), c.π.app i ≫ g = a ∧ g ≫ f = t.app i := by
+  classical
+  have 𝒰 := (c.pt.isBasis_affineOpens).isOpenCover_mem_and_le
+    (((X.isBasis_affineOpens).isOpenCover_mem_and_le
+    ((S.isBasis_affineOpens).isOpenCover.comap f.base.hom)).comap a.base.hom)
+  obtain ⟨i, s, 𝒱, h𝒱, h𝒱𝒰⟩ := Scheme.exists_isOpenCover_and_isAffine D c hc _ 𝒰 fun U ↦ U.2.1
+  obtain ⟨i', fi'i, hi'⟩ : ∃ (i' : I) (fi'i : i' ⟶ i),
+      ∀ j, D.map fi'i ⁻¹ᵁ 𝒱 j ≤ t.app i' ⁻¹ᵁ j.1.1.2.1.2.1 := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean:1141]: Can we somehow avoid this `j.1.1.2.1.2.1`?

File: Mathlib/CategoryTheory/Filtered/Basic.lean [hunk 7]
```diff
@@ -777,6 +786,14 @@ theorem of_isLeftAdjoint (L : C ⥤ D) [L.IsLeftAdjoint] : IsCofiltered D :=
 theorem of_equivalence (h : C ≌ D) : IsCofiltered D :=
   of_left_adjoint h.toAdjunction
 
+lemma wideCospan {I : Type*} [Finite I] {i : C} {j : I → C} (f : ∀ x, j x ⟶ i) :
+    ∃ k fki, ∃ g : ∀ x, k ⟶ j x, ∀ x, g x ≫ f x = fki := by
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Filtered/Basic.lean]: This one is assuming `IsCofiltered` instead of `IsCofilteredOrEmpty`. Could you please apply the same trick as in the `IsFiltered` case?

File: Mathlib/Topology/Sets/OpenCover.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/Topology/Sets/OpenCover.lean]: This is also leftover. Removed.

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean:1141]: Would changing `1` to `val` and `2` to `snd` help?

**Comment by erdOne** [comment]
> Is this really a good idea? Why not just consider cones in the over category and provide proper API to move back and forth between limits in Scheme and limits in the over category?

I wasn't sure at first, but since throughout the development I have never once hoped that I had a cone in `Over X` instead,  I can quite confidently say that yes this is a good idea.

> In any case, don't you want to prove the result in the PR title, i.e. a result of the form PreservesLimit _ (yoneda.obj _)? 

Yes. It will come as a follow up. I don't expect it will be useful at all though. It is merely an aesthetically pleasing thing to have.

> Currently, your statement is only surjectivity of the comparison map (which is indeed the hard part)

I'd say the injectivity is harder but it is already done earlier in the file.

> Also, it wouldn't hurt to add some documentation to these long proofs, and preferably split them up further.

Sure I'll try to add some docstrings.

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean:1141]: Probably not, the comment helps a bit and I don't see a good way to improve this further, so let's leave it like this.

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 8]
```diff
@@ -1053,4 +1053,186 @@ lemma Scheme.exists_isOpenCover_and_isAffine [IsCofiltered I]
...
+    NatIso.ofComponents (fun _ ↦ Iso.refl _) (by simp)
+  obtain ⟨t, rfl⟩ : ∃ t' : (Functor.const Iᵒᵖ).obj R ⟶ D.leftOp,
+      t = Functor.whiskerRight (NatTrans.rightOp t') Scheme.Spec ≫ e.hom :=
+    ⟨⟨fun i ↦ Spec.preimage (t.app i.unop), fun _ _ f ↦ Spec.map_injective
+      (by simpa using (t.naturality f.unop).symm)⟩, by ext : 2; simp [e]⟩
+  wlog hc' : ∃ c' : Cocone D.leftOp, c = Scheme.Spec.mapCone (coneOfCoconeLeftOp c') generalizing c
+  · have inst : IsAffine c.pt := isAffine_of_isLimit _ hc
+    let e' : (D ⋙ Scheme.Spec).op ⋙ Γ ≅ D.leftOp := D.leftOp.isoWhiskerLeft SpecΓIdentity
+    let c' := coneOfCoconeLeftOp ((Cocones.precompose e'.inv).obj (Γ.mapCocone c.op))
+    have inst : IsAffine (Scheme.Spec.mapCone c').pt := by dsimp; infer_instance
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]:
```suggestion
```

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer delegate

File: Mathlib/Topology/Sets/OpenCover.lean [hunk 9]
```diff
@@ -63,6 +63,21 @@ lemma isTopologicalBasis (hu : IsOpenCover u)
...
+
+/-- Given an open cover and a basis,
+the set of basis elements contained in any of the covers is still a cover. -/
+lemma Opens.IsBasis.isOpenCover_mem_and_le {S : Set (Opens X)} (hS : Opens.IsBasis S)
+    {U : ι → Opens X} (hU : IsOpenCover U) :
+    IsOpenCover (fun V : { x : Opens X × ι // x.1 ∈ S ∧ x.1 ≤ U x.2 } ↦ V.1.1) := by
+  refine top_le_iff.mp fun x _ ↦ ?_
+  obtain ⟨i, hxi⟩ := hU.exists_mem x
+  obtain ⟨_, ⟨V, hV, rfl⟩, hxV, hVU⟩ := hS.exists_subset_of_mem_open hxi (U i).2
+  simp only [Opens.iSup_mk, Opens.carrier_eq_coe, Opens.coe_mk, Set.mem_iUnion, SetLike.mem_coe]
```
Comment (dagurtomas) [inline Mathlib/Topology/Sets/OpenCover.lean]:
```suggestion
  simp only [iSup_mk, carrier_eq_coe, mem_mk, mem_iUnion, SetLike.mem_coe]
```
This will fix the build with #34741

**Comment by riccardobrasca** [comment]
There are still a couple of errors, can you fix them? Thanks!

bors d+
